US07528147B2
Thiophene-2-sulfonic acid (2,4-dimethoxybenzyl)[2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl]amide is prepared as described in Example 179a starting with 0.150 g of thiophene-2-sulfonic acid (2,4-dimethoxybenzyl)[2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl]amide instead of the [2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl](4-trifluoromethylsulfanylbenzyl)amine used in Example 179a and 1 cm3 of 5N potassium hydroxide. 0.100 g of thiophene-2-sulfonic acid (2,4-dimethoxybenzyl)[2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl]amide is obtained, the characteristics of which are as follows:

reactant | thiophene-2-sulfonic acid (2,4-dimethoxybenzyl)[2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl]amide | 0.150 g | COC1=C(CN(S(=O)(=O)C=2SC=CC2)CC2=C3C(=NC=C2)N(C(=C3)C3=CN(C2=CC(=C(C=C32)OC)OC)C)S(=O)(=O)C3=CC=C(C=C3)C)C=CC(=C1)OC | C39H38N4O8S3
reactant | potassium hydroxide | 5N, 1 cm3 | [OH-].[K+]
product | thiophene-2-sulfonic acid (2,4-dimethoxybenzyl)[2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl]amide | 0.100 g | COC1=C(CN(S(=O)(=O)C=2SC=CC2)CC2=C3C(=NC=C2)NC(=C3)C3=CN(C2=CC(=C(C=C32)OC)OC)C)C=CC(=C1)OC | C32H32N4O6S2
